US04782050
1. 1,2-dimethyl-7-fluorobenzimidazole
Following the procedure of Preparation O-1, 3.0 g of N2 -methyl-3-fluorophenylenediamine and 3.9 ml of triethylorthoacetate in 100 ml of ethanol gave 3.0 g of product.

reactant | N2 methyl-3-fluorophenylenediamine | 3.0 g | N#N.CNC1=C(C=CC=C1F)N
reactant | triethylorthoacetate | 3.9 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,2-dimethyl-7-fluorobenzimidazole | 3.0 g | CN1C(=NC2=C1C(=CC=C2)F)C | C9H9FN2
